US04882339
A solution of 10.4 g of 1,2-naphthoquinone-4-sulfonic acid-sodium salt in 350 ml of water is stirred at room temperature for 30 minutes. To this solution is added 4.52 g of N-methylcyclohexylamine in one portion. The solution is stirred five hours at room temperature and the precipitate then filtered. The product is washed with 200 ml of water and dried at 100° C. in vacuo overnight to afford 4-(N-methylcyclohexylamino)-1,2-naphthoquinone melting at 168°-170° C. The preparation of the same compound from 4-ethoxy-1,2-naphthoquinone is reported in J. Med. Chem. 13, 97 (1970).

reactant | 1,2-naphthoquinone-4-sulfonic acid-sodium salt | 10.4 g | C1=CC=C2C(=C1)C(=CC(=O)C2=O)S(=O)(=O)[O-].[Na+]
reactant | N-methylcyclohexylamine | 4.52 g | CNC1CCCCC1 | C7H15N
solvent | water | 350 ml | O | H2O
product | 4-(N-methylcyclohexylamino)-1,2-naphthoquinone | CN(C1=CC(C(C2=CC=CC=C12)=O)=O)C1CCCCC1 | C17H19NO2
